US07244722B2
Step 1: 4-(2,4,5-Trifluoro-phenoxy)butan-1-ol.
To a mixture of 1,4-butanediol (15 g, 0.17 mol) and t-BuOK (8.0 g, 0.071 mol) were added 1,2,4,5-tetrafluorobenzene (5.0 g, 33 mmol) and DMSO (50 g) at 60° C. After being stirred at this temperature for 18 h, toluene (200 mL), water (50 mL) and sodium chloride (10 g) were added to the reaction mixture. The layers were separated and the organic layer was concentrated in vacuo giving the title compound. This material was used directly in the next step.

reactant | 1,4-butanediol | 0.17 mol, 15 g | C(CCCO)O | C4H10O2
reactant | t-BuOK | 0.071 mol, 8.0 g | CC(C)(C)[O-].[K+]
reactant | 1,2,4,5-tetrafluorobenzene | 33 mmol, 5.0 g | FC1=C(C=C(C(=C1)F)F)F | C6H2F4
reactant | sodium chloride | 10 g | [Cl-].[Na+]
solvent | water | 50 mL | O | H2O
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
solvent | DMSO | 50 g | CS(=O)C | C2H6OS
product | 4-(2,4,5-Trifluoro-phenoxy)butan-1-ol | FC1=C(OCCCCO)C=C(C(=C1)F)F | C10H11F3O2
